US04220795
From Example 9Ci above, 0.276 g (0.001 mole) of 5-cyclododecylidene pentanoic acid was dissolved in 30 ml of glacial acetic acid. Platinum oxide (0.027 g) was added and the mixture was hydrogenated on a sloping-manifold hydrogenation apparatus for 3 hr at room temperature. The resultant mixture was then filtered through Celite (diatomaceous earth). The solvent was removed in vacuo to yield 0.26 g (93.8%) of 5-cyclododecylpentanoic acid having the following physical characteristics:

reactant | 5-cyclododecylidene pentanoic acid | 0.001 mole, 0.276 g | C1(CCCCCCCCCCC1)=CCCCC(=O)O | C17H30O2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | Platinum oxide | 0.027 g | [Pt]=O
product | 5-cyclododecylpentanoic acid | 0.26 g, 93.8% | C1(CCCCCCCCCCC1)CCCCC(=O)O | C17H32O2
